US06825191B2
Synthesis of 4-(4-chlorobenzoyl)-1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-6-hydroxy-1,3,4,5-tetrahydrobenzo[e][1,4]-diazepin-2-on
75 mg (0.15 mmol) of 4-(4-chlorobenzoyl)-1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-6-methoxy-1,3,4,5-tetrahydrobenzo[e][1,4]-diazepin-2-on was dissolved in 10 ml of dichloromethane. 1.3 ml of borane tribromide was added to the obtained solution, and they were stirred at room temperature overnight. After the treatment with dichloromethane as the extracting solvent by an ordinary method, the obtained crude product was treated in the same manner as in step 3 in Example 1 to obtain the title compound.

reactant | 4-(4-chlorobenzoyl)-1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-6-methoxy-1,3,4,5-tetrahydrobenzo[e][1,4]-diazepin-2-on | 0.15 mmol, 75 mg | ClC1=CC=C(C(=O)N2CC(N(C3=C(C2)C(=CC=C3)OC)CC3=CC=C(C=C3)C(=O)N3CC=CC3)=O)C=C1 | C29H26ClN3O4
reactant | borane tribromide | 1.3 ml | [Br-].[Br-].[Br-].B
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-(4-chlorobenzoyl)-1-[4-(2,5-dihydro-1H-pyrrol-1-ylcarbonyl)benzyl]-6-hydroxy-1,3,4,5-tetrahydrobenzo[e][1,4]-diazepin-2-on | ClC1=CC=C(C(=O)N2CC(N(C3=C(C2)C(=CC=C3)O)CC3=CC=C(C=C3)C(=O)N3CC=CC3)=O)C=C1 | C28H24ClN3O4
